US07968726B2
5.2. Preparation of 5-ethoxy-4,5-dihydroisoxazole-3-carbonitrile
To a dried 10 L three-necked flask equipped with a thermometer controller, a mechanical stirrer, and a dropping funnel protected under nitrogen was charged 6966.7 g (7.3×) of tetrahydrofuran and 950.0 g (1.0×) of compound (1Z,2E)-N-hydroxy-2-(hydroxyimino)acetimidoyl chloride. The reaction mixture was cooled to 0-5° C. followed by drop wise addition of 1845.2 g (1.9×) thionyl chloride over 60˜90 minutes at 0-5° C. After addition, the reaction mixture was stirred at 10-15° C. for 6-7 hours and deemed complete by HPLC. The reaction mixture was then concentrated under vacuum at 15-20° C. to about 1.0 L (1.0×) followed by addition of a total of 950 g (0.9×) of tetrahydrofuran and distillation to remove residual thionyl chloride. The resulting mixture was added drop wise into a solution of 2755 g (2.9×) of ethoxyethene, 6764 g (7.12×) of tetrahydrofuran and 715.0 g (0.75×) of sodium carbonate in 3200.0 g (3.4×) of water over 30-40 minutes at 0-5° C. After addition, the reaction mixture was stirred at 0-5° C. for 1-2 hours and deemed complete by HPLC. The resulting mixture was separated and the aqueous layer was extracted with 1900 g (2.0×) of methyl t-butyl ether, and then the combined organic layer was dried with 380 g (0.4×) of sodium sulfate, filtered and then concentrated to give 549.7 g yellow oil (Assay 60.3%, purity 97.0%, yield 30.5%). 1H NMR (CDCl3, 400 MHz) δ 5.76 (dd, J=2.0 Hz, 4.8 Hz, 1H), 3.86˜3.90 (m, 1H), 3.60˜3.65 (m, 1H), 3.21 (dd, J=6.8 Hz, 11.2 Hz, 1H), 3.00 (dd, J=2.0 Hz, 16 Hz, 1H), 1.21 (T, J=6.8 Hz, 1H).

reactant | (1Z,2E)-N-hydroxy-2-(hydroxyimino)acetimidoyl chloride | O\N=C(\C=N\O)/Cl | C2H3ClN2O2
reactant | thionyl chloride | 1845.2 g | S(=O)(Cl)Cl | Cl2OS
reactant | tetrahydrofuran | 6966.7 g | O1CCCC1 | C4H8O
product | 5-ethoxy-4,5-dihydroisoxazole-3-carbonitrile | 549.7 g, yield 30.5% | C(C)OC1CC(=NO1)C#N | C6H8N2O2
